US04327222
3,4,-Di(p-methoxyphenyl)isoxazol-5-acetic Acid
n-Butyllithium (50 ml of 1.6 molar solution, 80 mmole) is added dropwise to a stirred, cold (dry-ice-acetone bath), solution of 3,4-di(p-methoxyphenyl)-5-methylisoxazol (21.72 g., 73.6 mmole, Ex. 2) in THF (220 ml) under a nitrogen atmosphere. After stirring for 1 hour at -75° C., the red coloured mixture is poured into crushed dry-ice and stirred. The stirred mixture is allowed to warm to room temperature, concentrated, and the residue dissolved in water. The resulting solution is twice extracted with ether, layered with ethyl acetate, cooled in ice and acidified with concentrated hydrochloric acid. The layers are separated and the aqueous layer extracted with ethyl acetate. The combined ethyl acetate layers are dried (MgSO4) and concentrated to give a sticky foam residue. Recrystallization from benzene gives the title compound as a colourless solid, m.p. 142°-143° C. The nmr (CDCl3) spectrum τ 6.2 (8H, s, d, CH3O and --CH2 --), 3.28 to 2.52 (8H, m, aryl H's), 0.45 (1H, broad, COOH) agrees with the assignment.

reactant | n-Butyllithium | 80 mmole, 1.6 molar, 50 ml | C(CCC)[Li]
reactant | dry-ice acetone | C(=O)=O.CC(=O)C
reactant | 3,4-di(p-methoxyphenyl)-5-methylisoxazol | 73.6 mmole, 21.72 g | COC1=CC=C(C=C1)C1=NOC(=C1C1=CC=C(C=C1)OC)C | C18H17NO3
reactant | dry-ice | C(=O)=O | CO2
solvent | THF | 220 ml | C1CCOC1 | C4H8O
product | 3,4,-Di(p-methoxyphenyl)isoxazol-5-acetic Acid | COC1=CC=C(C=C1)C1=NOC(=C1C1=CC=C(C=C1)OC)CC(=O)O | C19H17NO5
